US08809369B2
A mixture solution of 2-(5-bromo-2-ethyl-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid methyl ester (1.5 g, 9.1 mmol), morpholine (3.17 mL, 36.4 mmol), copper(I) iodide (1.04 g, 5.5 mmol), N,N-dimethylglycine hydrochloride (1.02 g, 7.3 mmol), and potassium carbonate (3.77 g, 27.3 mmol) in dimethyl sulfoxide (20 mL) was stirred at 120° C. for 12 h. Then the reaction mixture was cooled to room temperature. The reaction mixture was extracted with ethyl acetate (200 mL×2), washed with saturated aqueous ammonium chloride solution (50 mL×3) and brine (50 mL×2), dried over anhydrous sodium sulfate and then concentrated in vacuo and the residue was purified by ISCO combi-flash chromatography (gradient elution, 30-50% ethyl acetate in petroleum ether) to afford 2-(2-ethyl-5-morpholin-4-yl-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester (0.6 g, 15%) as a white solid: MS (ESI) M+1=423.1.

reactant | 2-(5-bromo-2-ethyl-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid methyl ester | 9.1 mmol, 1.5 g | COC(=O)C=1C=C2C(CC(NC2=CC1)C1=C(C=CC(=C1)Br)CC)(C)C | C21H24BrNO2
reactant | morpholine | 36.4 mmol, 3.17 mL | N1CCOCC1 | C4H9NO
reactant | N,N-dimethylglycine hydrochloride | 7.3 mmol, 1.02 g | Cl.CN(CC(=O)O)C
reactant | potassium carbonate | 27.3 mmol, 3.77 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 5.5 mmol, 1.04 g | [Cu]I
product | 2-(2-ethyl-5-morpholin-4-yl-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester | 0.6 g, 15% | C(C)OC(=O)C=1C=C2C(CC(NC2=CC1)C1=C(C=CC(=C1)N1CCOCC1)CC)(C)C | C26H34N2O3
